US08304438B2
(a) 4-(4-Fluoro-phenyl)-thiazole-2-carbaldehyde
5 g (23.04 mmol) of 4-fluorophenacyl bromide and 3.76 g (23.04 mmol) of 2,2-diethoxythioacetamide in 100 ml of ethanol were stirred at room temperature for 2 h. After concentration, the residue was treated with ethyl acetate and filtered. The filtrate was concentrated and the obtained residue, which consisted of the diethyl acetal of 4-(4-fluoro-phenyl)-thiazole-2-carbaldehyde, was treated with 100 ml of acetone/water and 1 ml of 2 N hydrochloric acid. After stirring at room temperature for 2 h, the reaction mixture was evaporated. Yield: 4.22 g.

reactant | 4-fluorophenacyl bromide | 23.04 mmol, 5 g | FC1=CC=C(C(CBr)=O)C=C1 | C8H6BrFO
reactant | 2,2-diethoxythioacetamide | 23.04 mmol, 3.76 g | C(C)OC(C(=S)N)OCC | C6H13NO2S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-(4-Fluoro-phenyl)-thiazole-2-carbaldehyde | FC1=CC=C(C=C1)C=1N=C(SC1)C=O | C10H6FNOS
